US05157150
A 250 mL round bottom flask equipped with a reflux condenser, thermometer, and magnetic stirrer was charged with 9.2 g (73 mmol) of sodium sulfite, 24.6 g (292 mmol) of sodium bicarbonate and 80 mL of water. The resulting slurry was heated to 50° C., and 20.0 g (70 mmol) of 2-chloro-4-(chlorosulfonyl)benzoic acid was added over 15 minutes. After heating at 50° C. for three hours, chloroacetic acid (10.4 g, 110 mmol) and 5.7 mL (110 mmol) of 50% aqueous sodium hydroxide were added sequentially to the aqueous solution of 2-chloro-4-sulfinylbenzoic acid, and the reaction mixture heated to reflux. After heating for 19 hours, the reaction mixture was allowed to cool to ambient temperature and acidified with dilute HCl. The precipitated solids were collected by filtration, washed with dilute HCl and dried to give 17.4 g of 2-chloro-4-(methylsulfonyl)benzoic acid as a white solid. The solid was assayed at 85% purity, corresponding to an overall yield of 89%.

reactant | sodium sulfite | 73 mmol, 9.2 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 292 mmol, 24.6 g | C([O-])(O)=O.[Na+]
reactant | 2-chloro-4-(chlorosulfonyl)benzoic acid | 70 mmol, 20.0 g | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)Cl | C7H4Cl2O4S
reactant | chloroacetic acid | 110 mmol, 10.4 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 110 mmol, 5.7 mL | [OH-].[Na+]
reactant | 2-chloro-4-sulfinylbenzoic acid | ClC1=C(C(=O)O)C=CC(C1)=S=O | C7H5ClO3S
reactant | HCl | Cl | ClH
solvent | water | 80 mL | O | H2O
product | 2-chloro-4-(methylsulfonyl)benzoic acid | 17.4 g, yield of 89% | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H7ClO4S
